US08471005B2
5-[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-benzimidazol-2-one
Following the synthetic and purification procedures described in Example 1293d, 2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (75 mg, 0.22 mmol) was coupled with 5-amino-1,3-dihydro-benzimidazol-2-one (57 mg, 0.38 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 79 mg (67%) of brown powder. LC/MS: 421 (M+H); HPLC: 97% pure, RT=2.32 min; 1H NMR: (DMSO, δ) 10.65 (s, 1H), 10.48 (s, 1H), 9.38 (s, 1H), 9.02 (s, 1H), 8.49 (d, J=8.6, 2H), 8.04 (d, J=8.6, 2H), 7.35 (m, 2H), 7.29 (s, 1H), 6.98 (d, J=4.8, 1H), 6.91 (d, J=8.6, 1H), 3.27 (s, 3H).

reactant | 2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.22 mmol, 75 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=CC=C(C=C2)S(=O)(=O)C | C14H13N3O3S2
reactant | 5-amino-1,3-dihydro-benzimidazol-2-one | 0.38 mmol, 57 mg | NC1=CC2=C(NC(N2)=O)C=C1 | C7H7N3O
product | 5-[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-benzimidazol-2-one | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(NC(N1)=O)C=C2 | C20H16N6O3S
